US06380218B1
2-(3-Fluoro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide
To a stirred solution 2-(3-Fluoro-phenoxy)-nicotinic acid (0.250 g, 1.07 mmole), 2-(4-Aminomethyl-phenyl)-propan-2-ol (0.195 grams, 1.18 mmole) and 1-hydroxybenzotriazole hydrate (0.173 grams, 1.28 mmole) in dry dimethylformamide (15 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.173 grams, 1.28 mmole) and stirred over night. The mixture was diluted with 300 ml water and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica. Recrystalization from ethyl acetate/hexane gave a solid (0.400 g). M.P. 106-108° C.; Anal. calcd. for C22H21N2O3F: C, 69.46; H, 5.56; N, 7.36. Found: C, 69.05; H, 5.68; N, 7.25.

reactant | 2-(3-Fluoro-phenoxy)-nicotinic acid | 1.07 mmole, 0.250 g | FC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C12H8FNO3
reactant | 2-(4-Aminomethyl-phenyl)-propan-2-ol | 1.18 mmole, 0.195 grams | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
reactant | 1-hydroxybenzotriazole hydrate | 1.28 mmole, 0.173 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.28 mmole, 0.173 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(3-Fluoro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide | 0.400 g | FC=1C=C(OC2=C(C(=O)NCC3=CC=C(C=C3)C(C)(C)O)C=CC=N2)C=CC1 | C22H21FN2O3
